US07956070B2
Step 2: Benzyl (2E)-3-amino-5,5,5-trifluoropent-2-enoate
Benzyl 5,5,5-trifluoro-3-oxopentanoate (2.1 g) in ethanol (15 mL) was treated with ammonium acetate (2 g). The mixture was heated at 80° C. for 18 h and was then concentrated in vacuo. Water and DCM were added. The organic phase was separated and washed with sodium bicarbonate solution and water and then dried over sodium sulphate and filtered. The solvent was concentrated in vacuo to yield the title compound as a colourless oil (0.71 g).

reactant | Benzyl 5,5,5-trifluoro-3-oxopentanoate | 2.1 g | FC(CC(CC(=O)OCC1=CC=CC=C1)=O)(F)F | C12H11F3O3
reactant | ammonium acetate | 2 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | Benzyl (2E)-3-amino-5,5,5-trifluoropent-2-enoate | 0.71 g | N/C(=C/C(=O)OCC1=CC=CC=C1)/CC(F)(F)F | C12H12F3NO2
